US04863920
3.83 g (15 mmol) of 3-ethynyl-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was suspended in 30 ml of tetrahydrofuran and treated dropwise within 30 minutes at a maximum of -5° with 20 ml (30 mmol) of 1.6M butyllithium in hexane. After stirring for two hours in an ice-bath the mixture was cooled to -70° and 5 ml of hexamethylphosphoric acid triamide and 2 g (28 mmol) of cyclobutanone was added thereto in succession. The mixture was left to come to room temperature within 5 hours, stirred overnight and poured into 300 ml of water. After acidification with 4N hydrochloric acid the mixture was extracted five times with ethyl acetate. The combined organic extracts were washed with water, dried over magnesium sulphate and evaporated. By chromatography of the residue on silica gel while eluting with ethyl acetate and crystallization from ethyl acetate there was obtained 8-fluoro-4,5-dihydro-3-[ (1-hydroxycyclobutyl)-ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 177°-179°.

reactant | 3-ethynyl-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 15 mmol, 3.83 g | C(#C)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C14H10FN3O
reactant | butyllithium | 30 mmol, 1.6M, 20 ml | C(CCC)[Li]
reactant | hexamethylphosphoric acid triamide | 5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | cyclobutanone | 28 mmol, 2 g | C1(CCC1)=O | C4H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 300 ml | O | H2O
product | 8-fluoro-4,5-dihydro-3-[ (1-hydroxycyclobutyl)-ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3C#CC3(CCC3)O)C)=O)C1 | C18H16FN3O2
